US07648831B2
Enzymatic activity: 1 IU (international unity) of enzymatic activity is defined as the amount of enzyme that hydrolyses 1 μmol of penicillin G per minute at pH 8 and 37° C.
Analisys: Concentrations of PGME, 6-APA, ampicillin and PG using HPLC. Column Waters C18: Nova-Pak, 60 Å, diameter 4 μm, 3.9×150 mm. Mobile phase: 35% acetonitrile, 2‰ SDS (sodium dodecyl sulfate), 10 mM H3PO4, 5 mM K2H2PO4, pH 4.6 and 25° C., 225 nm, flow 1 mL/min. Synthesis experiments: 25° C., pH 6.5 controlled by automatic addition of NaOH. Jacketed glass vortex flow reactor, internal cylinder of stainless steel 316. Reaction volume, 50 mL. Reactor internal diameter, 36 mm. Rotary cylinder diameter, 10 mm (radius ratio 0.28). Volume of biocatalyst, 20 mL. Enzymatic load, 10 IU/(mL of reactor).

reactant | PGME | CC(COC)O | C4H10O2
reactant | 6-APA | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | SDS | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | H3PO4 | 10 mM | OP(=O)(O)O | H3O4P
reactant | NaOH | [OH-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | penicillin G | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)O)C | C16H18N2O4S
